US07550598B2
(Z)—N-(4-(2-(3-cyclopropyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-6-methoxy-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide
3-Cyclopropyl-1H-pyrazol-5(4H)-one (0.2 mmol) and 4-chloro-6-methoxyquinoline 1-oxide (0.025 g, 0.2 mmol) were stirred in acetic anhydride (1.5 mL) at ambient temperature for 30-40 minutes. The reaction mixture was concentrated and the resulting solid filtered off and washed with a minimum amount of ether. (Z)-4-(4-chloro-6-methoxyquinolin-2(1H)-ylidene)-3-cyclopropyl-1H-pyrazol-5(4H)-one (0.04 g, 0.11 mmol) was dissolved in ethanol (1.5 mL) and 4-acetamidothiophenol (0.019 g, 0.11 mmol) was added. The reaction mixture was heated to 180° C. using a microwave reactor for 5-10 minutes. The mixture was then concentrated and the resulting solid filtered and washed with ether to give Example 47. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.46 (d, J=6.57 Hz, 2H) 0.65-0.71 (m, 2H) 1.43-1.54 (m, 1H) 2.11 (s, 3H) 3.98 (s, 3H) 7.18 (s, 1H) 7.45 (d, J=2.53 Hz, 1H) 7.63 (dd, J=9.09, 2.27 Hz, 1H) 7.70 (d, J=8.59 Hz, 2H) 7.82 (d, J=8.59 Hz, 2H) 8.07 (d, J=9.09 Hz, 1H) 10.39 (s, 1H); ESI-MS: m/z calc'd for C24H22N4O3S 446.52. found 447.2 (M+H)+.

reactant | 3-Cyclopropyl-1H-pyrazol-5(4H)-one | 0.2 mmol | C1(CC1)C1=NNC(C1)=O | C6H8N2O
reactant | 4-chloro-6-methoxyquinoline 1-oxide | 0.2 mmol, 0.025 g | ClC1=CC=[N+](C2=CC=C(C=C12)OC)[O-] | C10H8ClNO2
reactant | (Z)-4-(4-chloro-6-methoxyquinolin-2(1H)-ylidene)-3-cyclopropyl-1H-pyrazol-5(4H)-one | 0.11 mmol, 0.04 g | ClC1=C/C(/NC2=CC=C(C=C12)OC)=C/1\C(=NNC1=O)C1CC1 | C16H14ClN3O2
reactant | 4-acetamidothiophenol | 0.11 mmol, 0.019 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
solvent | acetic anhydride | 1.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | (Z)—N-(4-(2-(3-cyclopropyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-6-methoxy-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide | C1(CC1)C/1=NNC(\C1=C\1/NC2=CC=C(C=C2C(=C1)SC1=CC=C(C=C1)NC(C)=O)OC)=O | C24H22N4O3S
